US05034417
A mixture of 3-chloro-4-nitrobenzonitrile (5 g), 2,4-difluoroaniline (17.7 g), cupric oxide (0.5 g) and potassium carbonate (4.5 g) was stirred for 5 hours at 200° C. To the mixture were added water (100 ml) and ethyl acetate (200 ml). The organic layer was separated, washed with 3N hydrochloric acid and water, dried, and evaporated to dryness. The oil (10 g) was purified by column chromatography on silica gel (200 g) eluting with toluene to give red crystals of 3-(2,4-difluorophenylamino)-4-nitrobenzonitrile (3.5 g).

reactant | 3-chloro-4-nitrobenzonitrile | 5 g | ClC=1C=C(C#N)C=CC1[N+](=O)[O-] | C7H3ClN2O2
reactant | 2,4-difluoroaniline | 17.7 g | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | potassium carbonate | 4.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 3-(2,4-difluorophenylamino)-4-nitrobenzonitrile | 3.5 g | FC1=C(C=CC(=C1)F)NC=1C=C(C#N)C=CC1[N+](=O)[O-] | C13H7F2N3O2
